US05726191
This 3.08 g of 2-hexyl-9,9-dimethyl-6,7,8,9-tetrahydro-5H-benzocycloheptene were dissolved in 35 ml of CH2Cl2, treated at 0° with a spatula tip of Fe powder and then reacted with a solution of 0.67 ml of Br2 (1.1 eq.) in 5 ml of CH2Cl2. After 30 min., the mixture was poured on to ice, extracted with diethyl ether, washed with bisulphite solution and NaCl soln., dried over Na2SO4 and evaporated to dryness. Flash chromatography on SiO2 (hexane) gave 3.21 g of 2-bromo-3-hexyl-5,5-dimethyl-6,7,8,9-tetrahydro-5H-benzocycloheptene as a colorless oil (GC purity: 82%, moreover 2% ed., 2.6% regioisomer, 8.3% dibromo compound and further prod.).

reactant | 2-hexyl-9,9-dimethyl-6,7,8,9-tetrahydro-5H-benzocycloheptene | 3.08 g | C(CCCCC)C=1C=CC2=C(C(CCCC2)(C)C)C1 | C19H30
reactant | Br2 | 0.67 ml, 1.1 eq. | BrBr | Br2
solvent | CH2Cl2 | 35 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | Fe | [Fe] | Fe
product | 2-bromo-3-hexyl-5,5-dimethyl-6,7,8,9-tetrahydro-5H-benzocycloheptene | 3.21 g | BrC=1C(=CC2=C(CCCCC2(C)C)C1)CCCCCC | C19H29Br
